US06194409B1
92c. 1-[2-(R)-Ethoxycarbonylamino-3-isopropylsulfanyl-3-methyl-butyryl-]-pyrrolidine-2-(S)-carboxylic acid methyl ester
A mixture of (L)-proline methyl ester hydrochloride (0.28 g), 2-(R)-ethoxycarbonylamino-3-isopropylsulfanyl-3-methyl-butyric acid (0.44 g), N-methyl morpholine (0.73 mL) and 0.54 g of 2-(1H-benzotriazole-1-yl)-1,1,3,3-tetramethyluronium tetrafluoroborate (TBTU) in 10 mL of dry N,N-dimethylformamide was stirred for 16 h at ambient temperature. The volatiles were pumped off and water was added followed by extraction with ethyl acetate and concentration of the organic layer. The remaining residue was purified by silica chromatography (ethyl acetate/isohexane=1/1) to give 0.45 g (72%) of the title compound as a colorless oil. (+)-APCI-MS: 375 (MH+).

reactant | (L)-proline methyl ester hydrochloride | 0.28 g | Cl.COC([C@H]1NCCC1)=O
reactant | 2-(R)-ethoxycarbonylamino-3-isopropylsulfanyl-3-methyl-butyric acid | 0.44 g | C(C)OC(=O)N[C@H](C(=O)O)C(C)(C)SC(C)C | C11H21NO4S
reactant | N-methyl morpholine | 0.73 mL | CN1CCOCC1 | C5H11NO
reactant | 2-(1H-benzotriazole-1-yl)-1,1,3,3-tetramethyluronium tetrafluoroborate | 0.54 g | F[B-](F)(F)F.N1(N=NC2=C1C=CC=C2)OC(=[N+](C)C)N(C)C
solvent | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 1-[2-(R)-Ethoxycarbonylamino-3-isopropylsulfanyl-3-methyl-butyryl-]-pyrrolidine-2-(S)-carboxylic acid methyl ester | 0.45 g, 72% | COC(=O)[C@H]1N(CCC1)C([C@H](C(C)(C)SC(C)C)NC(=O)OCC)=O | C17H30N2O5S
